US07544697B2
Hydrochloric acid was added (150 mL of 3 N) to a solution of ethyl 2-(2-benzenesulfonylethyl)-3-oxo-butyrate (21.7 g, 76.3 mmol) in 100 mL of ethanol and heated to reflux overnight. The reaction was cooled to ambient temperature and the mixture was concentrated under reduced pressure. The residue was extracted with several portions of ethyl acetate, and the combined organic layers were washed with saturated aqueous sodium bicarbonate, washed with brine, dried over magnesium sulfate, filtered, and concentrated under reduced pressure to afford 16.8 g of 5-benzenesulfonylpentan-2-one as a yellow oil.

reactant | Hydrochloric acid | Cl | ClH
reactant | ethyl 2-(2-benzenesulfonylethyl)-3-oxo-butyrate | 76.3 mmol, 21.7 g | C1(=CC=CC=C1)S(=O)(=O)CCC(C(=O)OCC)C(C)=O | C14H18O5S
solvent | ethanol | 100 mL | C(C)O | C2H6O
product | 5-benzenesulfonylpentan-2-one | 16.8 g | C1(=CC=CC=C1)S(=O)(=O)CCCC(C)=O | C11H14O3S
